US07285557B2
6-(4-chlorophenyl)-3-(4-{[2-(diethylamino)ethyl]sulfanyl}phenyl)thieno[3,2-d]pyrimidin-4(3H)-one
The mixture of 4-{[2-(diethylamino)ethyl]sulfanyl}aniline (1.0 mmol, 271 mg), amidine (methyl 5-(4-chlorophenyl)-3-{[(dimethylamino)methylidene]amino]2-thiophenecarboxylate, 1.0 mmol, 322 mg, the preparation of which may be found in the Example J13) and phenol (350 mg) was heated to 190° C. for 20 minutes. The mixture was cooled to room temperature and then washed with methanol. The crude solid product was collected by filtration and then was dissolved in minimum amount of dichlomethane. Adding methanol slowly and let sitting overnight, the title compound was precipitated out as white solid (180 mg, 39%). 1H NMR (CDCl3): δ 1.05 (6H, t, J=7.2 Hz), 2.61 (4H, q, J=7.1 Hz), 2.78 (2H, t, J=7.6 Hz), 3.10 (2H, t, J=7.6 Hz), 7.34 (2H, d, J=8.6 Hz), 7.45 (4H, m, overlapping), 7.53 (1H, s), 7.65 (2H, d, J=8.5 Hz), 8.12 (1H, s). LCMS m/z=470 (m+H+).

reactant | 4-{[2-(diethylamino)ethyl]sulfanyl}aniline | 1.0 mmol, 271 mg | C(C)N(CCSC1=CC=C(N)C=C1)CC | C12H20N2S
reactant | methyl 5-(4-chlorophenyl)-3-{[(dimethylamino)methylidene]amino]2-thiophenecarboxylate | ClC1=CC=C(C=C1)C1=CC(=C(S1)C(=O)OC)N=CN(C)C | C15H15ClN2O2S
reactant | phenol | 350 mg | C1(=CC=CC=C1)O | C6H6O
product | 6-(4-chlorophenyl)-3-(4-{[2-(diethylamino)ethyl]sulfanyl}phenyl)thieno[3,2-d]pyrimidin-4(3H)-one | ClC1=CC=C(C=C1)C1=CC=2N=CN(C(C2S1)=O)C1=CC=C(C=C1)SCCN(CC)CC | C24H24ClN3OS2
